US05173484
a) Ethyl 4-hydroxy-4-methylaminomethylpiperidine-1-carboxylate
5.2 g (28 mmol) of ethyl 6-aza-1-oxaspiro[2,5]octane-6-carboxylate ) are added dropwise to 30 ml of methylamine solution (25% in water) and the mixture is stirred overnight at room temperature. It is then concentrated and recrystallized from petroleum ether (hygroscopic crystals).

reactant | ethyl 6-aza-1-oxaspiro[2,5]octane-6-carboxylate | 28 mmol, 5.2 g | O1CC12CCN(CC2)C(=O)OCC | C9H15NO3
reactant | methylamine | 30 ml | CN | CH5N
product | Ethyl 4-hydroxy-4-methylaminomethylpiperidine-1-carboxylate | OC1(CCN(CC1)C(=O)OCC)CNC | C10H20N2O3
